US08258131B2
(1) Preparation of 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen
Pyridinium bromide perbromide (1.00 g) was added to a solution of 7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen (a compound obtained in Reference Example 5(3); 1.00 g) in dichloromethane (15 mL) under ice-cooling and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into a 15% aqueous solution of sodium thiosulfate and extracted with ethyl acetate. The organic layer was washed successively with a saturated solution of sodium bicarbonate and brine, dried over sodium sulfate and concentrated in vacuo. The resultant residue was purified by column chromatography on silica gel (Solvent: n-hexane/chloroform=100/0 to 95/5) to give the titled compound (1.26 g) as a colorless powder.

reactant | Pyridinium bromide perbromide | 1.00 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | ClC1=CC=C2C(=CC(OC2=C1)(C)C)C1=CC=C(C=C1)F | C17H14ClFO
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-bromo-7-chloro-4-(4-fluorophenyl)-2,2-dimethyl-2H-chromen | 1.26 g | BrC=1C(OC2=CC(=CC=C2C1C1=CC=C(C=C1)F)Cl)(C)C | C17H13BrClFO
